### PR TITLE
feat(CombinatoryLogic): Partrec → SKI computability

### PR DESCRIPTION
**Pull request by jessealama**
Prove that every `Nat.Partrec` function on ℕ is SKI-computable (`natPartrec_skiComputable`). Translates all eight `Nat.Partrec.Code` constructors to SKI terms and proves correctness, exercising the Recursion.lean infrastructure: primitive recursion (`Rec`), μ-recursion (`RFind`/`RFindAbove`), Nat pairing/unpairing, and integer square root.

The general computability notions (`SKI.Computes`, `SKI.Computable`) live in a new `Computable.lean`, mirroring the existing `URM.Computes`/`URM.Computable` layout, so future files (e.g. the SKI → Partrec converse sketched in Recursion.lean's TODO) can use them without importing `Mathlib.Computability.PartrecCode`.

### CODE REVIEW

File: Cslib/Languages/CombinatoryLogic/PartrecEquivalence.lean [hunk 1]
```diff
@@ -0,0 +1,379 @@
...
+
+/-! ### Computability predicate for functions on ℕ -/
+
+/-- An SKI term `t` computes a partial function `f : ℕ →. ℕ` if,
+for every Church numeral input, `t` reduces to a Church numeral output
+whenever `f` is defined. -/
+def Computes (t : SKI) (f : ℕ →. ℕ) : Prop :=
+  ∀ n : ℕ, ∀ cn : SKI, IsChurch n cn →
+    ∀ m : ℕ, f n = Part.some m →
+      ∃ cm : SKI, IsChurch m cm ∧ (t ⬝ cn) ↠ cm
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/PartrecEquivalence.lean]: Using `isChurch_trans` this can just be `IsChurch m (t ⬝ cn)` no?

**Review by thomaskwaring — APPROVED** [review]
Looks pretty good to me! The title should probably say that only one direction of the equivalence is proven here (Partrec -> SKI). If I have time I can do a more thorough review but my only real concern would be whether the new version of primitive recursion could use the original one in `Recursion.lean` any more (though I would believe that the pair/unpair dance makes that impossible)

File: Cslib/Languages/CombinatoryLogic/PartrecEquivalence.lean (hunk 1 above)
Comment (jessealama) [reply Cslib/Languages/CombinatoryLogic/PartrecEquivalence.lean]: Ah, that's really neat. Thanks! That makes things more compact.

**Comment by jessealama** [comment]
> Looks pretty good to me! The title should probably say that only one direction of the equivalence is proven here (Partrec -> SKI). If I have time I can do a more thorough review but my only real concern would be whether the new version of primitive recursion could use the original one in `Recursion.lean` any more (though I would believe that the pair/unpair dance makes that impossible)

In an earlier version of this proof, I tried to apply the original recursor directly but gave up because it was getting too bulky. The new `PrecTrans` is essentially a custom wrapper around `Rec` for this proof. I'm happy to try to resurrect that earlier approach, or "hide" the `PrecTrans` if we don't want to expose it. At a minimum, I'll add more documentation to clarify what's going on with the new recursor.

**Comment by thomaskwaring** [comment]
> In an earlier version of this proof, I tried to apply the original recursor directly but gave up because it was getting too bulky. The new `PrecTrans` is essentially a custom wrapper around `Rec` for this proof. I'm happy to try to resurrect that earlier approach, or "hide" the `PrecTrans` if we don't want to expose it. At a minimum, I'll add more documentation to clarify what's going on with the new recursor.

Makes sense! happy for you to leave as-is and/or hide the definition as you & the maintainers prefer. I suppose the ideal outcome would be for the definition of the term to mirror what the function looks like in `Nat.Partrec`, but that uses the monad structure on `Part`/`PFun` — once we have more API for encodings of datatypes I might try to update it, but that will be a way-away.

**Comment by jessealama** [comment]
Converting to draft — splitting out the Sqrt/NatPair/NatUnpair layer as a smaller PR first: #445.

**Comment by chenson2018** [comment]
@jessealama Can you resolve the merge conflicts here please?

**Comment by jessealama** [comment]
> @jessealama Can you resolve the merge conflicts here please?

Done! I'd like to leave this as a draft for now; I'm a bit unhappy with a couple of the proofs and will spend some time cleaning them up. I'm open to any suggestions, of course, but just as a matter of review priority, I'm happy to put this on your backburner.

**Comment by jessealama** [comment]
@thomaskwaring I've done a bit of refactoring here that touches on Recursion.lean. I added a `RFindAbove_correct'` that works with pointwise Church encoding instead of requiring a total function. Your original `RFindAbove_correct` is now a corollary. What do you think?

**Comment by jessealama** [comment]
I've iterated on this a bit and did some refactoring. There was a Mathlib PR we were depending on for a long time, but that's been resolved. I'd love it if this could get another look!

File: Cslib/Languages/CombinatoryLogic/Recursion.lean [hunk 2]
```diff
@@ -305,27 +324,40 @@ theorem rfindAboveAux_step (R₀ f a : SKI) {m : Nat} (hfa : IsChurch (m + 1) (f
...
+theorem RFindAbove_unfold (x g : SKI) :
+    (RFindAbove ⬝ x ⬝ g) ↠ RFindAboveAux ⬝ RFindAbove ⬝ x ⬝ g := by
+  apply MRed.head; apply MRed.head; exact fixedPoint_correct _
+
+/-- Generalized root-finding that works with pointwise properties rather than a total
+    function. At the root `m + n`, `f` yields Church 0; below, a nonzero Church numeral. -/
+theorem RFindAbove_correct' (f x : SKI) (n m : Nat) (hx : IsChurch m x)
+    (hf_root : ∀ y, IsChurch (m + n) y → IsChurch 0 (f ⬝ y))
+    (hf_below : ∀ i < n, ∀ y, IsChurch (m + i) y →
+      ∃ k, IsChurch (k + 1) (f ⬝ y)) :
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/Recursion.lean:338]:
```suggestion
    (hf_below : ∀ i < n, ∀ y, IsChurch (m + i) y → ∃ k, IsChurch (k + 1) (f ⬝ y)) :
```

File: Cslib/Languages/CombinatoryLogic/Recursion.lean [hunk 3]
```diff
@@ -305,27 +324,40 @@ theorem rfindAboveAux_step (R₀ f a : SKI) {m : Nat} (hfa : IsChurch (m + 1) (f
...
+        (fun y hy => hf_root y (by grind))
+        (fun i hi y hy => hf_below (i + 1) (by omega) y (by grind))
       grind
-  -- close the `h` goals of the above `apply isChurch_trans`
-  all_goals {apply MRed.head; apply MRed.head; exact fixedPoint_correct _}
+
+theorem RFindAbove_correct (fNat : Nat → Nat) (f x : SKI)
+    (hf : ∀ i : Nat, ∀ y : SKI, IsChurch i y → IsChurch (fNat i) (f ⬝ y))
+    (n m : Nat) (hx : IsChurch m x) (hroot : fNat (m+n) = 0) (hpos : ∀ i < n, fNat (m+i) ≠ 0) :
+    IsChurch (m+n) (RFindAbove ⬝ x ⬝ f) := by
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/Recursion.lean:356]:
```suggestion
    (n m : Nat) (hx : IsChurch m x) (hroot : fNat (m + n) = 0) (hpos : ∀ i < n, fNat (m + i) ≠ 0) :
    IsChurch (m + n) (RFindAbove ⬝ x ⬝ f) := by
```

File: Cslib/Languages/CombinatoryLogic/Computable.lean [hunk 4]
```diff
@@ -0,0 +1,83 @@
...
+
+open Red MRed
+
+/-- An SKI term `t` computes a partial function `f : ℕ →. ℕ` if,
+for every Church numeral input, `t` applied to the input is a Church numeral
+for the output whenever `f` is defined. -/
+def Computes (t : SKI) (f : ℕ →. ℕ) : Prop :=
+  ∀ n : ℕ, ∀ cn : SKI, IsChurch n cn →
+    ∀ m : ℕ, m ∈ f n →
+      IsChurch m (t ⬝ cn)
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/Computable.lean:45]:
```suggestion
  ∀ n : ℕ, ∀ cn : SKI, IsChurch n cn → ∀ m : ℕ, m ∈ f n → IsChurch m (t ⬝ cn)
```

File: Cslib/Languages/CombinatoryLogic/Computable.lean [hunk 5]
```diff
@@ -0,0 +1,83 @@
...
+    (heval : ∀ n, f n = Part.some (g n))
+    (hcorrect : ∀ n cn, IsChurch n cn → IsChurch (g n) (t ⬝ cn)) :
+    Computes t f := by
+  intro n cn hcn m hm; rw [heval] at hm; obtain rfl := Part.mem_some_iff.mp hm
+  exact hcorrect n cn hcn
+
+/-- Composition of computable functions is computable. -/
+theorem comp_computes {f g : ℕ →. ℕ} {tf tg : SKI}
+    (hf : Computes tf f) (hg : Computes tg g) :
+    Computes (B ⬝ tf ⬝ tg) (fun n => g n >>= f) := by
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/Computable.lean:64]:
```suggestion
    Computes (B ⬝ tf ⬝ tg) (f.comp g) := by
```

File: Cslib/Languages/CombinatoryLogic/PartrecToSKI.lean [hunk 6]
```diff
@@ -0,0 +1,255 @@
...
+  | .pair f g =>
+    let tf := codeToSKINat f
+    let tg := codeToSKINat g
+    S ⬝ (B ⬝ NatPair ⬝ tf) ⬝ tg
+  | .comp f g =>
+    B ⬝ (codeToSKINat f) ⬝ (codeToSKINat g)
+  | .prec f g =>
+    PrecTrans (codeToSKINat f) (codeToSKINat g)
+  | .rfind' f =>
+    RFindTrans (codeToSKINat f)
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/PartrecToSKI.lean:105]: this is potentially neater using dot notation
```suggestion
def _root_.Nat.Partrec.Code.toSKI : Code → SKI
  | .zero => K ⬝ SKI.Zero
  | .succ => SKI.Succ
  | .left => NatUnpairLeft
  | .right => NatUnpairRight
  | .pair f g => S ⬝ (B ⬝ NatPair ⬝ f.toSKI) ⬝ g.toSKI
  | .comp f g => B ⬝ f.toSKI ⬝ g.toSKI
  | .prec f g => PrecTrans f.toSKI g.toSKI
  | .rfind' f => RFindTrans f.toSKI
```

File: Cslib/Languages/CombinatoryLogic/PartrecToSKI.lean [hunk 7]
```diff
@@ -0,0 +1,255 @@
...
+    have hpair_inner := natPair_correct k ih_val (Pred ⬝ cb)
+      (Rec ⬝ base ⬝ step ⬝ (Pred ⬝ cb)) hpred hcih
+    have hpair_full := natPair_correct a₀ (Nat.pair k ih_val) ca
+      (NatPair ⬝ (Pred ⬝ cb) ⬝ (Rec ⬝ base ⬝ step ⬝ (Pred ⬝ cb))) hca hpair_inner
+    -- By ihg, tg computes the result
+    have hcm := ihg _ _ hpair_full m hm_eq
+    -- Chain the reductions
+    have hred := (rec_succ k base step cb hcb).trans
+      (precStep_def tg ca cb (Rec ⬝ base ⬝ step ⬝ (Pred ⬝ cb)))
+    exact isChurch_trans _ hred hcm
```
Comment (thomaskwaring) [inline Cslib/Languages/CombinatoryLogic/PartrecToSKI.lean:159]: i think we usually prefer hypotheses on the left of the colon
```suggestion
private theorem prec_rec_correct (f g : Code) (tf tg : SKI)
    (ihf : Computes tf f.eval) (ihg : Computes tg g.eval)
    (a₀ : ℕ) (ca : SKI) (hca : IsChurch a₀ ca) (b₀ m : ℕ)
    (hm : m ∈ Code.eval (f.prec g) (Nat.pair a₀ b₀)) (cb : SKI) (hcb : IsChurch b₀ cb) :
    IsChurch m (Rec ⬝ (tf ⬝ ca) ⬝ (PrecStep tg ⬝ ca) ⬝ cb) := by
  induction b₀ generalizing m cb with
  | zero =>
    rw [Code.eval_prec_zero] at hm
    exact isChurch_trans _ (rec_zero _ _ cb hcb) (ihf a₀ ca hca m hm)
  | succ k ih =>
    rw [Code.eval_prec_succ] at hm
    obtain ⟨ih_val, hih_eq, hm_eq⟩ := Part.mem_bind_iff.mp hm
    -- By IH, Rec computes the intermediate value on Pred ⬝ cb
    have hpred : IsChurch k (Pred ⬝ cb) := pred_correct (k + 1) cb hcb
    set step := PrecStep tg ⬝ ca
    set base := tf ⬝ ca
    have hcih := ih ih_val hih_eq (Pred ⬝ cb) hpred
    -- Build Church numeral for the argument to g
    have hpair_inner := natPair_correct k ih_val (Pred ⬝ cb)
      (Rec ⬝ base ⬝ step ⬝ (Pred ⬝ cb)) hpred hcih
    have hpair_full := natPair_correct a₀ (Nat.pair k ih_val) ca
      (NatPair ⬝ (Pred ⬝ cb) ⬝ (Rec ⬝ base ⬝ step ⬝ (Pred ⬝ cb))) hca hpair_inner
    -- By ihg, tg computes the result
    have hcm := ihg _ _ hpair_full m hm_eq
    -- Chain the reductions
    have hred := (rec_succ k base step cb hcb).trans
      (precStep_def tg ca cb (Rec ⬝ base ⬝ step ⬝ (Pred ⬝ cb)))
    exact isChurch_trans _ hred hcm
```

**Review by thomaskwaring — APPROVED** [review]
sorry it took me so long to get to this — it's looking good to me! most of the comments are style-related & possibly a matter of taste, so take-or-leave them as you prefer

**Comment by jessealama** [comment]
> sorry it took me so long to get to this — it's looking good to me! most of the comments are style-related & possibly a matter of taste, so take-or-leave them as you prefer

No problem at all! I really appreciate the review. I've incorporated all your changes; thank you!
